US07256186B2
To a solution of (2R,5S)-(5-phenyl-pyrrolidin-2-yl)-methanol (0.78 g, 4.4 mmol) in CH2Cl2 (7 mL) at 0° C. was added 0.72 mL (5.2 mmol, 1.2 eq) of Et3N followed by a slow addition of 0.66 mL (5.2 mmol, 1.2 eq) of TMSCl. The mixture was stirred at 0° C. for 45 min. Water (3 mL) was added to quench the reaction. The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (2 mL×2). The combined organic layer was dried (Na2SO4) and concentrated under vacuum to give 0.98 g (89%) of (2R,5S)-2-phenyl-5-trimethylsilanyloxymethyl-pyrrolidine as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ 7.60–7.30 (5H, m), 4.30 (1H, m), 3.85 (2H, m), 3.50 (1H, m), 2.25 (1H, m), 2.05 (1H, m), 0.25 (9H, m).

reactant | (2R,5S)-(5-phenyl-pyrrolidin-2-yl)-methanol | 4.4 mmol, 0.78 g | C1(=CC=CC=C1)[C@@H]1CC[C@@H](N1)CO | C11H15NO
reactant | Et3N | 5.2 mmol, 0.72 mL, 1.2 eq | CCN(CC)CC | C6H15N
reactant | TMSCl | 5.2 mmol, 0.66 mL, 1.2 eq | C[Si](C)(C)Cl | C3H9ClSi
reactant | Water | 3 mL | O | H2O
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (2R,5S)-2-phenyl-5-trimethylsilanyloxymethyl-pyrrolidine | 0.98 g, 89% | C1(=CC=CC=C1)[C@@H]1N[C@@H](CC1)CO[Si](C)(C)C | C14H23NOSi
